Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
Demerol
 
Attending: ___.
 
Chief Complaint:
Bladder cancer
 
Major Surgical or Invasive Procedure:
Radical cystectomy with ileal conduit

 
History of Present Illness:
This is a ___ gentleman
with a history of hematuria status post TURBT, noting T1
disease in the bladder.  However, the patient had prostatic
urethral involvement involving the prostatic duct and thus
opted for cystoprostatectomy.

 
Past Medical History:
1.  Meniere disease.
2.  Status post partial TURP in his ___.
3.  Arthroscopy on his knee.
4.  ENT surgery.
5.  Two prior back surgeries.

 
Social History:
___
Family History:
In ___, his father died of bladder cancer after
undergoing a cystectomy.  His mother died at ___ of renal cell
carcinoma.  She, of note, had a hypertrophied right kidney, and
he has a grandfather with prostate cancer.

 
Physical Exam:
General: comfortable
Abd: soft, non tender, non distended
Incisions: clean, dry, intact; no signs of infection
Ostomy: pink, well perfused
Urine: yellow 

 
Pertinent Results:
___ 06:30AM BLOOD WBC-6.0 RBC-3.21* Hgb-10.5* Hct-30.2* 
MCV-94 MCH-32.6* MCHC-34.6 RDW-12.6 Plt ___

___ 06:30AM BLOOD UreaN-6 Creat-0.8 Na-143 K-3.7 Cl-104 
HCO3-28 AnGap-15
 
Brief Hospital Course:
Patient was admitted to Dr. ___ Urology service after 
undergoing radical cystectomy and ileal conduit. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. Patient received perioperative antibiotic 
prophylaxis and an epidural post-op. NGT removed POD1. With the 
passage of flatus, patient's diet was advanced. JP, foley, and 
ureteral stents removed POD4 after pathology identified negative 
margins. The patient was ambulating and pain was controlled on 
oral medications by this time. The ostomy nurse saw the patient 
for ostomy teaching.  At the time of discharge the wound was 
healing well with no evidence of erythema, swelling, or purulent 
drainage. Staples removed on discharge.  The ostomy was perfused 
and patent. Patient is scheduled to follow up in clinic for 
wound check and pathology review.
 
Discharge Medications:
1. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation for 1 weeks: Take while on narcotics. 
Stop when having regular bowel movements.
Disp:*20 Capsule(s)* Refills:*0*
2. Clonazepam 1 mg Tablet Sig: Three (3) Tablet PO at bedtime.
Disp:*0 Tablet(s)* Refills:*0*
3. Adderall 30 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*0 Tablet(s)* Refills:*0*
4. Ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain for 1 weeks: Take regularly for 1 day 
then as needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
5. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q6H (every 6 hours) as needed for breakthrough pain on motrin 
and tylenol for 1 weeks: No alcohol or driving on this 
medication.
Disp:*30 Tablet(s)* Refills:*0*
6. Fluoxetine 20 mg Tablet Sig: 0.5-2 Tablets PO once a day: 
Start with 10mg. Titrate up by 10mg each week to a goal of 40mg.
Disp:*60 Tablet(s)* Refills:*1*
7. Clonazepam 1 mg Tablet Sig: Three (3) Tablet PO QHS (once a 
day (at bedtime)).
Disp:*0 Tablet(s)* Refills:*0*
8. Adderall 15 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*0 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Bladder cancer

 
Discharge Condition:
Stable

 
Discharge Instructions:
-New meds: prozac 10mg to titrate up by 10mg weekly to a goal of 
40mg.
-Please resume all home meds, no changes otherwise.
-Do not drive while taking percocet. Transition to Tylenol as 
pain improves.
-You may shower, but do not immerse incision, no tub 
baths/swimming.  
-Small white steri-strips bandages will fall off in ___ days, 
you may remove at that time if irritating. Remove the dressing 
over your JP site ___.
-Call if incision becomes markedly more red, swollen, or begins 
to drain purulent fluid, or for fever more than 101.5.
-Please refer to visiting nurses (___) for management of the 
ileal conduct.

 
Followup Instructions:
___